US05380861
1.2 ml (10 mmol) of trimethylsilylacetylene, 40 ml of diethylamine and 1.5 g (10 mmol) of 2,5-dichloropyridine are stirred at 20° under argon. To the colourless solution obtained there are added 0.1 g (0.4 mmol) of triphenylphosphine, 0.01 g (0.05 mmol) of copper-(I) iodide as well as 0.06 g (0.25 mmol) of palladium-dichloro-bis(acetonitrile). The reaction solution is subsequently heated to reflux for 5 hours while stirring. After cooling to 25° the reaction solution is evaporated at 40° under reduced pressure. 50 ml of ethanol are subsequently added to the residue and the mixture is again evaporated. The crude product is filtered over 30 g of silica gel with ethyl acetate and the eluate is evaporated, whereby 1.6 g of brown liquid remain behind. 1.0 g thereof is distilled in a bulb tube at 70°/0.1 Pa, whereby there are obtained as the main fraction 0.6 g of 2-trimethylsilylethynyl-5-chloropyridine which solidifies upon standing.

reactant | trimethylsilylacetylene | 10 mmol, 1.2 ml | C[Si](C)(C)C#C | C5H10Si
reactant | 2,5-dichloropyridine | 10 mmol, 1.5 g | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | triphenylphosphine | 0.4 mmol, 0.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | copper-(I) iodide | 0.05 mmol, 0.01 g | [Cu]I
solvent | diethylamine | 40 ml | C(C)NCC | C4H11N
product | 2-trimethylsilylethynyl-5-chloropyridine | 0.6 g | C[Si](C#CC1=NC=C(C=C1)Cl)(C)C | C10H12ClNSi
